data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5243,5948,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]#[N:23])([C:24](=[O:25])[NH:26][CH3:27])[NH:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,33.35935690656773,3.491507446766017
4782,5460,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[NH:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,22.936323517338728,-17.170490035531227
4809,5489,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:17]([C:18](=[O:19])[O:20][CH3:21])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22](=[O:23])[O:24][CH3:25],water,298.15,12.102056700169294,-24.76195038064565
710,771,[CH3:16][O:17][C:18](=[O:19])[CH-:20][N+:21]#[N:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:20]([C:18]([O:17][CH3:16])=[O:19])[N:21]=[N:22]2,water,298.15,38.38083699408945,-1.3989638730972371
544,594,[CH3:13][C:14](=[NH+:15][O-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:14]([CH3:13])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:15][O:16]3,water,298.15,24.374296598380464,-14.560691284449348
5257,5962,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[C:31](=[O:32])[O:33][CH3:34]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:31](=[O:32])[O:33][CH3:34])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,16.562988900527966,-27.250352893703884
1350,1480,[CH3:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2](=[O:3])/[C:4]([Cl:5])=[C:6](/[Cl:7])[C:8]([CH3:9])=[O:10]>>[CH3:1][C:2](=[O:3])[C@:4]1([Cl:5])[C@:6]([Cl:7])([C:8]([CH3:9])=[O:10])[CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:17][C:14]1([C:12]([CH3:11])=[O:13])[C:15]#[N:16],water,298.15,18.376738654218222,-17.23507197913112
324,353,[CH3:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]([CH3:17])=[CH:18][C:19]#[N:20]>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]([CH3:17])[CH:18]2[C:19]#[N:20],water,298.15,32.988960792743896,-24.305333942255807
1166,1267,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:24]([CH3:25])=[O:26])[NH:16][C:17]1([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,21.85112337540163,-27.43584510905051
4370,4991,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([C:9]#[N:10])=[O+:11][C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:11][C:8]1([C:6]([CH3:5])=[O:7])[C:9]#[N:10],water,298.15,17.88630010863945,-29.876531872356303
661,721,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,15.277206815138657,-39.887713632131145
